US09340556B2
5-Ethyl-8-oxo-5,8-dihydro-[1,3]dioxolo[4,5-g]quinoline-7-carboxylic acid (50 g, 191 mmol) was dissolved in H2SO4 (112 ml, 2105 mmol) with stirring. The thick solution was cooled to 0° C. and potassium nitrate (21.29 g, 211 mmol) was added in small portions. The temperature of the reaction mixture was maintained below 10° C. by use of an iced water bath. After the addition, the mixture was kept under 10° C. for 1 h, and then was allowed to warm up to r.t. and stirred for overnight. It was poured into iced water (2 L). The yellow precipitates were collected by filtration, washed with water and ethanol, and dried in vacuo to afford 5-ethyl-9-nitro-8-oxo-5,8-dihydro-[1,3]dioxolo[4,5-g]quinoline-7-carboxylic acid (61 g, 187 mmol, 98% yield) as a light brown solid. LCMS: (M+H)+: 307.4.

reactant | 5-Ethyl-8-oxo-5,8-dihydro-[1,3]dioxolo[4,5-g]quinoline-7-carboxylic acid | 191 mmol, 50 g | C(C)N1C=C(C(C=2C=C3C(=CC12)OCO3)=O)C(=O)O | C13H11NO5
reactant | H2SO4 | 2105 mmol, 112 ml | OS(=O)(=O)O | H2O4S
reactant | potassium nitrate | 211 mmol, 21.29 g | [N+](=O)([O-])[O-].[K+]
solvent | water | 2 L | O | H2O
product | 5-ethyl-9-nitro-8-oxo-5,8-dihydro-[1,3]dioxolo[4,5-g]quinoline-7-carboxylic acid | 187 mmol, 61 g, 98% yield | C(C)N1C=C(C(C=2C(=C3C(=CC12)OCO3)[N+](=O)[O-])=O)C(=O)O | C13H10N2O7
